US04305951
3-Methyl-5-(2-hydroxy-styryl)-isoxazole
8.8 g (0.2 mole) of a 55% strength suspension of sodium hydride in paraffin oil are introduced into 100 ml of absolute dimethylsulfoxide. 47 g (0.2 mole) of diethyl (3-methyl-isoxazol-5-yl)-methanephosphonate are added dropwise at room temperature. The mixture is then stirred for 30 minutes, after which 36 g (0.2 mole) of o-(1-methoxyethoxy)-benzaldehyde are added dropwise, with continued stirring. The reaction mixture is then stirred for 24 hours at room temperature and is poured onto 1 liter of ice water, and the batch is extracted 3 times with 80 ml of methylene chloride at a time. The combined organic phases are dried with sodium sulfate and evaporated down on a rotary evaporator. The oily residue is dissolved in 80 ml of methanol and 10 ml of water, 2 ml of 5 N HCl are added, and the mixture is stirred for 10 minutes. Excess water is then added slowly until a precipitate forms. This is filtered off, washed with water and recrystallized from ethanol. 19 g (47% of theory) of colorless crystals, of melting point 236°-238° C., are obtained.

reactant | sodium hydride | [H-].[Na+]
reactant | diethyl (3-methyl-isoxazol-5-yl)-methanephosphonate | 0.2 mole, 47 g | CC1=NOC(=C1)CP(OCC)(=O)OCC | C9H16NO4P
reactant | o-(1-methoxyethoxy)-benzaldehyde | 0.2 mole, 36 g | COC(C)OC1=C(C=O)C=CC=C1 | C10H12O3
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 3-Methyl-5-(2-hydroxy-styryl)-isoxazole | CC1=NOC(=C1)C=CC1=C(C=CC=C1)O | C12H11NO2
